* A44_SCHEM_ACQ_ESD_LUMPED_RC_GEN50_R1
* Nominal two-leg external network + official primary pad + secondary ESD.
* This is a lumped-RC acquisition model, not a board/package SI model.

.param A44_REXT_OHM_PER_LEG=55
.param A44_CCM_F_PER_LEG=1.5p
.param A44_CDIFF_F=0.2p

.subckt A44_NOMINAL_INPUT_NETWORK
+ VGENP VGENN PADP PADN ASIGP ASIGN VINP_TG VINN_TG VDD VSS
R_EXT_P VGENP PADP {A44_REXT_OHM_PER_LEG}
R_EXT_N VGENN PADN {A44_REXT_OHM_PER_LEG}
C_EXT_P PADP VSS {A44_CCM_F_PER_LEG}
C_EXT_N PADN VSS {A44_CCM_F_PER_LEG}
C_EXT_D PADP PADN {A44_CDIFF_F}

* Extracted GF180 analog HBM pad pin order: DVSS DVDD VSS VDD PAD ASIG5V.
X_APAD_P VSS VDD VSS VDD PADP ASIGP gf180mcu_fd_io__asig_5p0_extracted
X_APAD_N VSS VDD VSS VDD PADN ASIGN gf180mcu_fd_io__asig_5p0_extracted

* Chipathon secondary 3.3-V CDM networks.
X_SEC_P ASIGP VINP_TG VDD VSS A44_SECONDARY_ESD_3P3
X_SEC_N ASIGN VINN_TG VDD VSS A44_SECONDARY_ESD_3P3
.ends A44_NOMINAL_INPUT_NETWORK

